US05073556
33.63 g (0.079 mole) of ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)acrylate [(XIXa): X=X'=F, R1 =OCHF2, R17 =C2H5 ] were dissolved in 1300 ml of ethanol with heating. A stream of hydrogen was then bubbled through the solution in the presence of 8.4 g of 5% w/w palladium-on-carbon at room temperature for 40 minutes, whilst stirring. At the end of this time, the reaction mixture was filtered, and the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was then purified by silica gel column chromatography using a 9:1 by volume mixture of toluene and ethyl acetate as the eluent, to give 25.1 g of ethyl 3-cyclopropylamino-2-(6-amino-3-difluoromethoxy-2,4,5-trifluorobenzoyl)acrylate [(XIXb): X=X'=F, R1 =OCHF2, R17 =C2H5 ] as a pale yellow powder, melting at 103°-104° C.

reactant | ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)acrylate | 0.079 mole, 33.63 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1[N+](=O)[O-])F)F)OC(F)F)F)=O | C16H13F5N2O6
solvent | ethanol | 1300 ml | C(C)O | C2H6O
product | ethyl 3-cyclopropylamino-2-(6-amino-3-difluoromethoxy-2,4,5-trifluorobenzoyl)acrylate | 25.1 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1N)F)F)OC(F)F)F)=O | C16H15F5N2O4
